Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
Mechanical intubation ___ with subsequent extubation
R IJ central line placement, removed ___

 
History of Present Illness:
___ G2P0 Rh+ w history of IVDU, recent track marks found on 
arms, recent SAB at ___ gestational age ___, pt has not 
followed up), presenting with 3 days of nausea/vomiting. Patient 
is very drowsy on history taking, therefore the history is 
obtained from patient's mother and ___ documentation.

Patient called her mom this past ___ c/o N/V, and 
had to leave work early. Patient slept the rest of ___ and 
all day ___. Patient also noted to have a rash on the palmar 
surface of her left hand on ___. Rash was initially 
painful, pain has since subsided. ___ patient awoke and had 
breakfast but reported to her mom that she later vomited that 
night. Patient then went to her boyfriend's house. She did not 
answer the phone on ___, and her boyfriend said that she 
remained sick. She had repeated emesis n ___ and therefore 
was brought to the ___. Per boyfriend, her temperature was 99.0 
F. 

Mother endorses that patient had a SAB. Up until her current 
admission, she has been well. Mother was not aware that patient 
used IV drugs, but did find syringe's in the patient's purse 
today. Mother denies knowledge of new sexual partners. ___ 
patient sometimes takes Tylenol ___. 

Per ___ documentation, patient reported lower abdominal pain, 
pelvic pain, and a small amount of white vaginal discharge.   No 
vaginal bleeding since first week after SAB. Denies 
fevers/chills. Reports 3 days of rash on left hand. No other 
skin lesions. Denies chest pain, dyspnea, palpitations. No HA or 
vision changes. No bleeding gums. Took Tylenol once today, no 
other medications. She denies taking anticoagulation meds.

 
-In the ___, initial vitals:  98.0 110 109/65 18 98% RA
-Exam notable for:  No retinal hemorrhage. No conjunctival 
hemorrhage
Multiple punctate erythematous non-painful lesions on palm of 
left hand. No rash on other extremities
No cardiac murmur, lungs clear
Abd soft, nonTTP
Pelvic: Purulent discharge from cervical os. Left adnexal mass 
and tenderness. No cervical motion tenderness.
-Labs notable for: wbc 12.1, H/H 13.8/43.4, Plt 329, Chem 7 with 
HCO3 12, otherwise normal. Lactate 6.1 ->5.7, INR 4.7, AST 1569, 
ALT ___, AP 120, Tbili 2.5, Lipase 472. Serum tox negative, hcg 
8.

-Pelvic u/s prelim read:  
1. No sonographic evidence of retained products of conception. 
2. No adnexal masses are seen, though concomitant ectopic 
pregnancy is not entirely excluded. Correlation with beta HCG is 
recommended. 

-abdominal u/s prelim read: 
1. Unremarkable right upper quadrant ultrasound aside from a 
small regions of fatty hepatic infiltration.

-OB was consulted and reviewed pelvic u/s. Did not appreciated 
evidence of retained products. Did not suspect endometritis but 
could not rule out. 

-Liver was consulted and NAC in addition to work up for 
etiologies of acute liver failure. 

Patient was given narcan given history of IVDU and decreased 
arousability, with some effect, per report. She als received 
vanc, flagyl, NAC loading dose, and 2 L of IVF and admitted to 
the floor.  

On arrival to the MICU, pt is drowsy but arousable to voice and 
gentle tactile stimuli. Patient follows commands, opens her eyes 
to voice, and moves all extremities to command.

 
Past Medical History:
-H/o IV drug use.  
-migraine HA
-spontaneous abortion
 
Social History:
___
Family History:
-Mother: uterine fibroids    
-MGM: stomach cancer               
 
 
Physical Exam:
Initial Physical Exam
#ERROR!
Vitals: T: 97.9 BP: 105/61 P:104  R: 17 O2: 99% RA  
GENERAL: Arousable to voice and gentle sternal rub, opens eyes  
HEENT: Sclera anicteric, dry mucous membranes  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally anteriorly, no wheezes, 
rales, rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, patient resists abdominal exam diffusely, but no 
rebound tenderness or voluntary guarding appreciated
EXT: Warm, well perfused, no clubbing, cyanosis or edema  
SKIN:  No petechiae, splinter hemorrhages, ___ lesions. 
left middle finger with round, erythematous 2 mm lesion on 
middle finger, NT to palpation. additional 1-2 mm erythematous 
raised lesions on left palmar surface
NEURO:  moving all extremities to command, pupils reactive b/l

Discharge Physical Exam
#ERROR!
Vitals: 98.2 (Tmax 99.1) 103/59 76 16 100% on RA  
General: young woman, speaking in full sentences, comfortable 
appearing, in NAD
HEENT: sclera icteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD; R IJ in place without 
erythema or induration  
Lungs: clear to auscultation bilaterally, no wheezes, crackles, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley, no CVA tenderness  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: axox3, CNII-XII grossly intact, strength intact in 
bilateral upper and lower extremities. No asterixis. Able to 
recite days of week backwards, able to do serial 7s x 2 numbers 
 
Pertinent Results:
Initial Lab Results
#ERROR!
___ 08:50PM BLOOD WBC-12.1*# RBC-4.68 Hgb-13.8 Hct-43.3 
MCV-93 MCH-29.5 MCHC-31.9* RDW-14.7 RDWSD-48.4* Plt ___
___ 11:50PM BLOOD ___ PTT-30.7 ___
___ 05:56AM BLOOD ___ 08:50PM BLOOD Glucose-169* UreaN-17 Creat-0.9 Na-137 
K-4.6 Cl-98 HCO3-12* AnGap-32*
___ 11:50PM BLOOD ALT-___* AST-1569* AlkPhos-120* 
TotBili-2.5*
___ 05:56AM BLOOD Calcium-8.2* Phos-1.2* Mg-2.2 Iron-40
___ 05:56AM BLOOD calTIBC-335 ___ Ferritn-689* TRF-258
___ 05:56AM BLOOD Triglyc-46
___ 05:56AM BLOOD Osmolal-298
___ 11:50PM BLOOD IgM HBc-NEGATIVE
___ 05:56AM BLOOD HAV Ab-NEGATIVE IgM HAV-NEGATIVE
___ 02:53AM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 02:53AM BLOOD ___
___ 11:50PM BLOOD IgG-1178 IgA-112
___ 07:30PM BLOOD Vanco-7.9*
___ 11:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:02PM BLOOD Type-ART Rates-16/ Tidal V-450 FiO2-50 
pO2-113* pCO2-27* pH-7.32* calTCO2-15* Base XS--10 
Intubat-INTUBATED Vent-CONTROLLED
___ 08:50PM BLOOD Lactate-6.1*
___ 06:56AM BLOOD freeCa-1.18

DISCHARGE:

___ 05:06AM BLOOD WBC-8.7 RBC-2.80* Hgb-8.3* Hct-26.2* 
MCV-94 MCH-29.6 MCHC-31.7* RDW-19.5* RDWSD-65.7* Plt ___
___ 05:06AM BLOOD ___ PTT-35.9 ___
___ 05:06AM BLOOD Glucose-111* UreaN-6 Creat-0.5 Na-135 
K-3.4 Cl-102 HCO3-21* AnGap-15
___ 05:06AM BLOOD Calcium-8.7 Phos-2.5* Mg-1.8

IMAGING
#ERROR!
___ Pelvic U/S
IMPRESSION:  
1.  No sonographic evidence of retained products of conception.  
Endometritis is not excluded. 
2.  No adnexal masses are seen, though concomitant ectopic 
pregnancy is not entirely excluded.  Correlation with beta HCG 
is recommended. 

___ CXR
IMPRESSION:  
No acute intrathoracic abnormality.

___ CT Head
IMPRESSION: 
1. No acute intracranial abnormalities on the noncontrast head 
CT. 
2. There is relative fullness of the brain parenchyma, however 
within expected limits for the patient's age.  If there is high 
clinical concern for cerebellar edema, MRI would be more 
sensitive in this clinical context, if there are no 
contraindications. 
3. Near complete opacification of the right maxillary sinus.  
Moderate mucosal thickening of the ethmoid air cells. 
 

___ Abdominal U/S
IMPRESSION:  
1.  2.5 cm ill-defined heterogeneous hepatic hypodensity is new 
since ___.  Given the provided clinical history, 
this could represent an area of infection/ abscess.  Recommend 
MR to further evaluate. 
2.  Marked gallbladder wall edema is new in the interval and 
likely reflective of acute hepatitis. 
3.  No evidence of ascites.  The main portal vein is patent. 

___ MRI Spine
IMPRESSION: 
1. Enhancing material in the anterior epidural space throughout 
the cervical spine and extending into the upper thoracic spine.  
Given the clinical history, this is suggestive of epidural 
abscess.  If infection appears unlikely, the differential 
diagnosis would include inflammatory or neoplastic processes 

___ MRI Abdomen
IMPRESSION:  
1.  Diffuse abnormal hepatic signal compatible with hepatitis.  
No evidence of hepatic abscess. 
2. Lobulated hypoenhancing T2 hypointense foci surrounding the 
gallbladder 
fossa, likely representing  areas of liver relatively spared 
from hepatitis or regenerative nodules. 
3.  Severe gallbladder wall thickening secondary to the diffuse 
hepatic 
disease. 
4.  Lobulated cystic lesion in the right mid kidney with 
apparent mildly 
thickened enhancing septum. 
5.  Pulmonary edema. 

___:
CT Head  
1. No evidence of infection, mass, edema or hemorrhage. 
2. Sclerotic right maxillary sinus wall with mucosal secretions, 
suggestive of 
chronic sinusitis. 

___: MRI BRAIN
 
Right maxillary and ethmoid sinus disease.  Otherwise 
unremarkable MRI of the brain. 

___:
MRI CERVIAL AND THORACIC SPINE:
 
The previous enhancement in the anterior epidural space spanning 
from C4-T2 is no longer visualized, likely representing interval 
resolution and treatment response.  Follow-up as clinically 
indicated. 

MICRO DATA
___ 4:38 am SWAB      Source: Vaginal. 

                            **FINAL REPORT ___

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___:    Negative for Chlamydia trachomatis by 
___ System,
      APTIMA COMBO 2 Assay. 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___:    Negative for Neisseria gonorrhoeae by 
___
      System, APTIMA COMBO 2 Assay. 

___ 4:38 am SWAB      Source: Vaginal. 

                            **FINAL REPORT ___

   SMEAR FOR BACTERIAL VAGINOSIS (Final ___: 
      GRAM STAIN NEGATIVE FOR BACTERIAL VAGINOSIS. 

   GENITAL CULTURE FOR TOXIC SHOCK (Final ___: 
      NO STAPHYLOCOCCUS AUREUS ISOLATED. 

   YEAST VAGINITIS CULTURE (Final ___:    NEGATIVE FOR 
YEAST. 
  
___ 9:58 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    10,000-100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___:
Test                          Result              Reference 
Range/Units
SOURCE                        Serum               
HSV 1 QN PCR                  <100                <100 copies/mL
HSV 2 QN PCR                  <100                <100 copies/mL

___ 4:18 am Immunology (___)      Source: Line-TLC. 

                            **FINAL REPORT ___

   CMV Viral Load (Final ___: 
      CMV DNA not detected. 
      Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
      Linear range of quantification: 137 IU/mL - 9,100,000 
IU/mL. 
      Limit of detection 91 IU/mL. 
      This test has been verified for use in the ___ patient 
population. 

___ 11:31 am IMMUNOLOGY      Source: Line-R IJ. 

                            **FINAL REPORT ___

   HIV-1 Viral Load/Ultrasensitive (Final ___: 
      HIV-1 RNA is not detected. 
      Performed using the Cobas Ampliprep / Cobas Taqman HIV-1 
Test v2.0. 
      Detection Range: ___ copies/mL. 
      This test is approved for monitoring HIV-1 viral load in 
known
      HIV-positive patients. It is not approved for diagnosis of 
acute HIV
      infection. 
      In symptomatic acute HIV infection (acute retroviral 
syndrome), the
      viral load is usually very high (>>1000 copies/mL). If 
acute HIV
      infection is clinically suspected and there is a 
detectable but low
      viral load, please contact the laboratory for 
interpretation. 
      It is recommended that any NEW positive HIV-1 viral load 
result, in
      the absence of positive serology, be confirmed by 
submitting a new
      sample FOR HIV-1 PCR, in addition to serological testing. 

 
Brief Hospital Course:
___ with remote history of IVDU, SAB 8 weeks prior to 
presentation presenting with 3 days of abdominal pain. Patient 
was found to have endometritis and acute liver failure. Liver 
failure secondary to acetaminophen toxicity. Patient required 
ICU care and intubation, received N acetylcysteine for liver 
failure. Her liver function improved and her encephalopathy 
improved with lactulose. After extubation she had an episode of 
altered mental status with hand jerking and abnormal posturing. 
She was urgently evaluated by neurology and did not have 
abnormal EEG findings, head CT and MRI without acute process. 
___ have been secondary to acute liver failure. Infectious 
workup unremarkable and patient completed course of IV 
antibiotics for endometritis. She may have had frontal seizures 
and will follow up with neurology as outpatient. With 
downtrending LFTs, normal mental status, and patient afebrile x 
48 hours she was discharged home with plan for new PCP and 
neurology follow up.

#ERROR!
MICU COURSE
#ERROR!
# Acute Liver Failure: 
Patient presented to the MICU in acute liver failure with 
initially rising LFTs and INR and altered mental status. Liver 
failure was attributed to Tylenol toxicity given report of 
Tylenol ingestion. Upon extubation, patient endorsed taking 
several pills of Tylenol ___ for insomnia. Hepatitis serologies 
were negative, in addition to ___, AMA, and anti-smooth muscle 
antibody. Ceruloplasmin and alpha 1 anti-trypsin levels were 
normal. Patient received N acetylcysteine infusions per 
protocol. Her LFTs down trended from a peak of ~8000 to 600s. 
INR also down trended from a peak of 7.2 to 1.9. 

#Acute toxic metabolic encephalopathy: 
Patient presented with lethargy and somnolence. She initially 
was able to answer some questions and follow some commands. 
However her mental status soon deteriorated and she was 
intubated for airway protection (see below). Her encephalopathy 
was attributed to liver failure. EEG showed generalized sharp 
wave discharges, concerning for either non-convulsive status vs 
sequela of hepatic encephalopathy and she was started on Keppra. 
Patient's mental status improved, she was able to follow 
commands, and her EEG also demonstrated improvement. Patient's 
keppra was discontinued without further evidence of seizure 
activity, and on day of discharge from the ICU, she was able to 
answer questions appropriately and follow commands. She was 
continued on lactulose for hepatic encephalopathy.  

# SEPSIS 
Patient presented with persistent fevers during admission up to 
102.3 F. She was started on vanc/zosyn for broad spectrum 
coverage. Blood cultures were negative. Fevers initially 
attributed to her acute liver failure. Given persistent fevers, 
and rising T bili to 7, a RUQ u/s was obtained which showed a 
2.5cm hepatic lesion. MRI abdomen showed no concern for abscess. 
Given her history of IVDU, an MR ___ spine was obtained which 
showed concern for abscess at the anterior cervical level, 
though no discrete fluid collection or abscess was identified. 
Repeat MRI without evidence of abscess. ID was consulted. Given 
patient's history of SAB, and initial complaint of pelvic pain 
in the ___, she was started on Augmentin 875mg BID/unasyn 
(___) for endometritis. With downtrending leukocytosis, 
no further fevers, no abdominal or pelvic pain, antibiotics 
discontinued. All other infectious workup including EBV, CMV, 
HIV, HSV negative. Patient remained afebrile x 48 hours and was 
not discharged on any further antibiotics. 

# INTUBATION FOR DEPRESSED MENTAL STATUS: 
Patient initially intubated for depressed mental status. Mental 
status improved and patient was extubated without complications. 
Pt answered questions and followed commands on day of discharge 
from the ICU. 

#ERROR!
FLOOR COURSE:
#ERROR!

#ACUTE ENCEPHALOPATHY:
Patient with concerning mental status changes, unable to speak, 
abnormal hand tremor and movements of arms and legs. Potential 
etiologies include seizure, infection, malignancy, toxic 
metabolic encephalopathy. Head imaging unremarkable, EEG without 
seizure activity, and MRI ___ spine without other further 
concerning signs of abscess. Patient was followed closely by 
neurology and psychiatry. There was concern for possible frontal 
seizures vs volitional psychogenic behavior. Patient's mental 
status returned to baseline ___ and she did not have any 
further episodes. Patient discharged with plan for outpatient 
neurology follow up with Dr. ___ and Dr. ___ in 
epilepsy clinic.   

  
#Recent SAB, endometritis:
Patient with SAB 8 weeks prior to admission. She presented 
complaining of abdominal pain with presentation concerning for 
endometritis. Patient unable to tolerate augmentin secondary to 
nausea. She completed course of unasyn without further fevers, 
leukocytosis, abdominal pain, or vaginal discharge. 

#History of IVDU:
Patient noted to have track marks and syringes in purse 
concerning for IVDU history. Also with history of suboxone use 
not prescribed by a physician, likely obtained in other ways. 
Patient did not show signs of withdrawal and was not interested 
in referral to suboxone treatment program. 

#ACETAMINOPHEN OVERDOSE:
Patient presented with liver failure secondary to acetaminophen 
toxicity. Patient revealed that she had taken increasing doses 
of Tylenol ___ to help with abdominal pain, sleep. She initially 
endorsed suicidal ideation and had a 1:1 sitter for safety. She 
was evaluated by psychiatry who determined that patient did not 
have further suicidal ideation, no current risk to herself, and 
did not meet criteria for ___ or inpatient psychiatric 
hospitalization criteria. Patient was counseled on appropriate 
medication use and to avoid all Tylenol until PCP follow up. ___ 
may consider establishing care with a psychiatrist or therapist 
as an outpatient. 

#Tobacco Use:
Patient is a current every day smoker. She received nicotine 
patch and gum while inpatient.

#Access:
Patient initially had R IJ central line placed in the ICU. IV 
nurses were unable to obtain peripheral access. Central line was 
discontinued on day of discharge.  

TRANSITIONAL ISSUES:
#ERROR!

[ ] Acute Liver Failure: please repeat LFTs at PCP follow up, 
ensure down trending. If normalized can discontinue lactulose.
[ ] History of Heroin Use: Last use "years ago". Patient 
counseled on suboxone, she declined services at this time but 
provided with resources if she should be interested
[ ] Depression: Patient endorsed feeling depressed after SAB, 
acetaminophen overdose unintentional. She was counseled on 
appropriate use of acetaminophen and evaluated by psychiatry who 
determined she was not at acute risk to herself or others. 
Please continue to assess. 
***[ ] Patient needs follow up of lobulated cystic lesion in 
kidney noted on MRI

#Code: full
#Communication: ___ ___ 
___
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Lactulose 30 mL PO TID 
RX *lactulose 10 gram/15 mL (15 mL) 30 mL by mouth three times a 
day Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Liver Failure
Acetaminophen Toxicity
Endometritis
Acute Toxic Metabolic Encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your recent 
admission to ___. You came into 
the hospital because of abdominal pain. We found that you had 
liver failure because you took too much Tylenol. You were in the 
intensive care unit and required intubation. You were also 
treated with IV antibiotics for an infection of your uterus 
(endometritis). Your liver function improved with medication. 
Additionally you had an episode of confusion related to your 
liver failure and possible seizures. You were evaluated by 
infectious disease, neurology, psychology, and hepatology. You 
did not have any further episodes and did not require any 
medications for confusion.

Please DO NOT TAKE Tylenol/acetaminophen until your liver 
numbers return to normal. 

Please continue to take your lactulose so that you have ___ 
bowel movements per day. 

If you should feel sad or depressed please call the BEST team at 
___ for assistance. We want to be sure you always 
feel you have assistance and are safe.

Please take your medications as directed and follow up with your 
new PCP as scheduled.

We wish you the best.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___